data/mechanism_extracts/GreenChem/10.1039_d2gc03879j.json
{"doi": "10.1039_d2gc03879j", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Telescoped electrocatalytic coupling of aromatic alkenes with NH3 and CO2 (or CS2) via an iodide-mediated N-H aziridination followed by CO2/CS2 ring expansion to give 2-oxazolidinones (or 2-thiazolidinethiones).", "mechanism_family": ["mediator_anodic", "electrocatalysis_outer_sphere", "anion_initiated"], "electrochemical_role": "Anodic oxidation of iodide generates an electrophilic NH2I species (from NH3) that mediates N-H aziridination of the styrene; H2 is evolved at the cathode. Iodide is regenerated and reused in the subsequent (non-electrochemical) ring expansion step.", "key_intermediates": [{"name": "NH2I (electrochemically generated iodoamine mediator)", "smiles": "NI", "role": "reactive"}, {"name": "vicinal iodoamine (beta-iodo-beta-phenylethylamine)", "smiles": "NCC(I)c1ccccc1", "role": "transient"}, {"name": "2-phenyl N-H aziridine", "smiles": "C1(c2ccccc2)CN1", "role": "reactive"}, {"name": "zwitterionic aziridinium carbamate adduct (aziridine N + CO2)", "smiles": null, "role": "transient"}, {"name": "ring-opened iodo-carbamate (iodide attack at benzylic carbon)", "smiles": null, "role": "transient"}, {"name": "5-phenyl-2-oxazolidinone (product)", "smiles": "O=C1OC(c2ccccc2)CN1", "role": "reactive"}], "electron_flow": "At the anode, iodide is oxidized and combines with NH3 to give NH2I, which adds across the styrene to form a vicinal iodoamine; base-assisted cyclization releases iodide and gives the N-H aziridine, while protons are reduced to H2 at the cathode. In the second (thermal) cycle, the aziridine nitrogen attacks CO2 to form a carbamate zwitterion; iodide opens the ring regioselectively at the benzylic carbon, and ring closure expels iodide to deliver the 2-oxazolidinone, regenerating the iodide mediator.", "rate_determining_step": null, "probe_reagents": [{"name": "LiI (variable loading: 0, 0.2, 2 equiv)", "smiles": "[Li+].[I-]", "purpose": "redox_probe", "observation": "CO2 insertion yield drops from 92% (2 equiv LiI) to 9% (no halide) despite full aziridine consumption; higher LiI suppresses oligomerization and improves regioselectivity (2a:3a up to 18:1)."}, {"name": "LiBr", "smiles": "[Li+].[Br-]", "purpose": "redox_probe", "observation": "Similar trend to LiI but less pronounced, confirming halide mediator role; iodide is the better halide."}, {"name": "trans-beta-methylstyrene", "smiles": "C/C=C/c1ccccc1", "purpose": "other", "observation": "Gives cis/trans product mixture (59:41 cis-major), indicating loss of stereochemistry consistent with an SN1-like ring-opening at the benzylic carbon."}, {"name": "Telescoped vs. salt-removed control", "smiles": null, "purpose": "intermediate_trap", "observation": "Removing salts after aziridination and re-adding controlled LiI amounts shows iodide is required for efficient ring expansion (double use of catalyst confirmed)."}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate", "kinetic_order", "other"], "evidence_strength": "medium", "notes": "Regioselectivity for the 5-aryl isomer is rationalized by benzylic-cation stabilization favoring iodide attack at the more hindered benzylic carbon (SN1-like), supported by partial racemization with trans-beta-methylstyrene. An analogous mechanism is proposed for CS2 to give 2-thiazolidinethiones. Parasitic pathways (oligomerization/copolymerization of aziridine with CO2) compete when iodide is low."}
